US07186726B2
D. Synthesis of [4-(3,3-diphenyl-propionyl)-piperazin-1-yl]-acetic acid
A mixture of [4-(3,3-diphenyl-propionyl)-piperazin-1-yl]-acetic acid ethyl ester (1.17 g, 3.07 mmol) and LiOH (645 mg, 15.35 mmol) in MeOH: H2O (3:1, 40 ml) stirred at room temperature for 2 days. The solvent was then evaporated and residue dissolved in water. Upon acidified with 2N HCl to pH 3, product precipitated in aq. phase, filtered and washed few times with water and dried to give the desired product in 78% yield.

reactant | [4-(3,3-diphenyl-propionyl)-piperazin-1-yl]-acetic acid ethyl ester | 3.07 mmol, 1.17 g | C(C)OC(CN1CCN(CC1)C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C23H28N2O3
reactant | LiOH | 15.35 mmol, 645 mg | [Li+].[OH-]
solvent | MeOH H2O | 40 ml | CO.O
product | [4-(3,3-diphenyl-propionyl)-piperazin-1-yl]-acetic acid | 78% yield | C1(=CC=CC=C1)C(CC(=O)N1CCN(CC1)CC(=O)O)C1=CC=CC=C1 | C21H24N2O3
